US09193693B2
Step 1. Methyl 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into a 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), 4-(4-chlorophenyl)piperidine hydrochloride (204.2 mg, 0.88 mmol, 2.00 equiv), DIEA (170.3 mg, 1.32 mmol, 3.00 equiv), N,N-dimethylformamide (4 mL). The resulting solution was stirred overnight at 100° C. in an oil bath. The reaction was then quenched by the addition of water. The resulting solution was extracted with 6×15 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:50). This resulted in 146.2 mg (71%) of methyl 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-(4-chlorophenyl)piperidine hydrochloride | 0.88 mmol, 204.2 mg, 2.00 equiv | Cl.ClC1=CC=C(C=C1)C1CCNCC1
reactant | DIEA | 1.32 mmol, 170.3 mg, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(4-(4-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | ClC1=CC=C(C=C1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H24ClN3O2
